US09428528B2
Step 1 Preparation of (1R,2S)-2-[(difluoroacetyl)amino]-3-fluoro-1-[4-(6-{[(methylsulfonyl)amino]methyl}pyridin-3-yl)phenyl]propyl 4-bromobutanoate
4-Bromobutanoyl chloride (29.6 μL, 0.255 mmol) is added dropwise to a stirred solution of 2,2-difluoro-N-{(1S,2R)-1-(fluoromethyl)-2-hydroxy-2-[4-(6-{[(methylsulfonyl)amino]methyl}pyridin-3-yl)phenyl]ethyl}acetamide (100.0 mg, 0.232 mmol), N,N-diisopropylethylamine (48.4 μL, 0.278 mmol), and 4-dimethylaminopyridine (11.3 mg, 0.093 mmol) in N,N-dimethylformamide (1.00 mL) at rt. The reaction mixture is stirred for 1 hour before being concentrated. The residue was purified by CombiFlash (4 g column) eluting with 0-100% ethyl acetate to yield the title compound (80.0 mg, 59%) as a yellow foam. MS (ESI+) m/z 581.7 [M+H].

reactant | 4-Bromobutanoyl chloride | 0.255 mmol, 29.6 μL | BrCCCC(=O)Cl | C4H6BrClO
reactant | 2,2-difluoro-N-{(1S,2R)-1-(fluoromethyl)-2-hydroxy-2-[4-(6-{[(methylsulfonyl)amino]methyl}pyridin-3-yl)phenyl]ethyl}acetamide | 0.232 mmol, 100.0 mg | FC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1C=NC(=CC1)CNS(=O)(=O)C)O)CF)F | C18H20F3N3O4S
reactant | N,N-diisopropylethylamine | 0.278 mmol, 48.4 μL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | 4-dimethylaminopyridine | 0.093 mmol, 11.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 1.00 mL | CN(C=O)C | C3H7NO
product | (1R,2S)-2-[(difluoroacetyl)amino]-3-fluoro-1-[4-(6-{[(methylsulfonyl)amino]methyl}pyridin-3-yl)phenyl]propyl 4-bromobutanoate | 80.0 mg, 59% | BrCCCC(=O)O[C@@H]([C@@H](CF)NC(C(F)F)=O)C1=CC=C(C=C1)C=1C=NC(=CC1)CNS(=O)(=O)C | C22H25BrF3N3O5S
